US09302991B2
<Step-1>: methyl 2-acetamido-6-methylisonicotinate
A mixture of methyl 2-chloro-6-methylisonicotinate (2.00 g, 10.8 mmol), acetamide (1.27 g, 21.6 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.20 g, 0.22 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.37 g, 0.65 mmol), tripotassium phosphate (2.74 g, 12.9 mmol) and 1,4-dioxane (26 mL) is heated by microwave irradiation at 150° C. for 1 hr. After cooling to room temperature, the mixture is filtered through a pad of celite. The filtrate is concentrated under reduced pressure and the residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (4:11:3) to give 1.99 g (89% yield) of the title compound as a yellow solid.

reactant | methyl 2-chloro-6-methylisonicotinate | 10.8 mmol, 2.00 g | ClC=1C=C(C(=O)OC)C=C(N1)C | C8H8ClNO2
reactant | acetamide | 21.6 mmol, 1.27 g | C(C)(=O)N | C2H5NO
reactant | tripotassium phosphate | 12.9 mmol, 2.74 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.22 mmol, 0.20 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.65 mmol, 0.37 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | 1,4-dioxane | 26 mL | O1CCOCC1 | C4H8O2
product | methyl 2-acetamido-6-methylisonicotinate | 1.99 g, 89% yield | C(C)(=O)NC=1C=C(C(=O)OC)C=C(N1)C | C10H12N2O3
